US04695569
To a stirred mixture of 4.6 parts of N4 -[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-4,5-pyrimidinediamine, 2.25 parts of N,N-diethylethanamine and 195 parts of dichloromethane were added dropwise 1.75 parts of carbonothioic dichloride. Upon completion, stirring was continued for 3 hours at reflux temperature. The reaction mixture was evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the hydrochloride salt in ethanol and 2-propanol. The salt was filtered off and dried, yielding 1 part (15.4%) of 9-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-7,9-dihydro-8H-purine-8-thione trihydrochloride.dihydrate; mp. 244.7° C. (compound 143).

reactant | N4 -[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-4,5-pyrimidinediamine | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCNC2=NC=NC=C2N | C25H29FN8
reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
reactant | carbonothioic dichloride | C(=S)(Cl)Cl | CCl2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | 9-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-7,9-dihydro-8H-purine-8-thione trihydrochloride | 15.4% | Cl.Cl.Cl.FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCN2C1=NC=NC=C1NC2=S | InChI=1S/C26H27FN8S.3ClH/c27-19-7-5-18(6-8-19)16-35-23-4-2-1-3-21(23)31-25(35)30-20-9-11-33(12-10-20)13-14-34-24-22(32-26(34)36)15-28-17-29-24;;;/h1-8,15,17,20H,9-14,16H2,(H,30,31)(H,32,36);3*1H
